US05780500
4.58 g (17.70 mmol) of (1-chlorodibenz[b,f]oxepin-10-yl)-methanol are heated under reflux in 50 ml of 48% hydrobromic acid for 2 hours. The mixture is cooled, water is added and the mixture is extracted 3× with ethyl acetate. The organic phases are washed with brine, dried over sodium sulfate and concentrated. 5.57 g of crude product are obtained which becomes solid on being left to stand (3 days). Recrystallisation from tert-butyl methyl ether/hexane yields 2.205 g (6.86 mmol)=38.7% of 10-bromomethyl-1-chloro-dibenz[b,f]oxepine in the form of light-beige crystals; TLC (silica gel; ethyl acetate; UV): Rf =0.73; 1H-NMR (CDCl3, 200 MHz): 4.60 (s, 2H); 7.15-7.58 (m, 8H).

reactant | (1-chlorodibenz[b,f]oxepin-10-yl)-methanol | 17.70 mmol, 4.58 g | ClC1=CC=CC=2OC3=C(C(=CC21)CO)C=CC=C3 | C15H11ClO2
reactant | water | O | H2O
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 10-bromomethyl-1-chloro-dibenz[b,f]oxepine | 38.7% | BrCC1=CC2=C(OC3=C1C=CC=C3)C=CC=C2Cl | C15H10BrClO
